US07622487B2
4-Nitrophenyl 4-acetyl-1-piperazinecarboxylate
A solution of 1-acetylpiperazine (1.30 g) and Et3N (1.23 g) in dichloromethane (10 ml) was added dropwise to a solution of 4-nitrophenyl chloroformate (2.05 g) in dichloromethane (20 ml) under ice-cooling. After stirring at 0° C. for 30 minutes and at room temperature for 1 hour, water was added to the reaction solution, and the reaction solution was extracted with dichloromethane. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and saturated brine, dried, and then the solvent was evaporated under reduced pressure. The obtained residue was isolated and purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (1.70 g) as colorless crystals.

reactant | 1-acetylpiperazine | 1.30 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | Et3N | 1.23 g | CCN(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 2.05 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Nitrophenyl 4-acetyl-1-piperazinecarboxylate | 1.70 g | C(C)(=O)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H15N3O5
